US05747502
Synthesis of 2,7-dihydroxy-3,8-dimethoxy-5-methylbenzo[c]phenanthridinium chloride (compound A-4)
2-isopropoxy-3,8-dimethoxy-7-benzyloxybenzo[c]phenanthridine (compound D-4) and methyl p-toluenesulfonate were subjected to a reaction operation in a manner similar to that of Example 16 to produce compound E-4, which was further treated with dilute hydrochloric acid in the presence of methanol, so that compound A-4, wherein X- =Cl-, was obtained.

reactant | 2-isopropoxy-3,8-dimethoxy-7-benzyloxybenzo[c]phenanthridine | C(C)(C)OC=1C(=CC2=C(C=CC3=C4C=CC(=C(C4=CN=C23)OCC2=CC=CC=C2)OC)C1)OC | C29H27NO4
reactant | methyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OC)C | C8H10O3S
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | 2,7-dihydroxy-3,8-dimethoxy-5-methylbenzo[c]phenanthridinium chloride | [Cl-].OC=1C(=CC2=C(C=CC3=C4C=CC(=C(C4=C[N+](=C23)C)O)OC)C1)OC | InChI=1S/C20H17NO4.ClH/c1-21-10-15-12(6-7-17(24-2)20(15)23)13-5-4-11-8-16(22)18(25-3)9-14(11)19(13)21;/h4-10H,1-3H3,(H,22,23);1H
